US07994185B2
N-{3-[5-(2-amino-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2-pyrazinesulfonamide
Following a procedure analogous to the procedure described in Example 278 using 4-[4-(3-amino-2-fluorophenyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-5-yl]-2-pyrimidinamine (100 mg, 0.269 mmol) and sodium 2-pyrazinesulfinate (135 mg, 0.808 mmol), the title compound was obtained as a yellow solid (30 mg, 21% yield). MS (ESI): 514 [M−H]+.

reactant | 4-[4-(3-amino-2-fluorophenyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-5-yl]-2-pyrimidinamine | 0.269 mmol, 100 mg | NC=1C(=C(C=CC1)C=1N=C(SC1C1=NC(=NC=C1)N)C1CCOCC1)F | C18H18FN5OS
reactant | sodium 2-pyrazinesulfinate | 0.808 mmol, 135 mg | N1=C(C=NC=C1)S(=O)[O-].[Na+]
product | N-{3-[5-(2-amino-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2-pyrazinesulfonamide | NC1=NC=CC(=N1)C1=C(N=C(S1)C1CCOCC1)C=1C(=C(C=CC1)NS(=O)(=O)C1=NC=CN=C1)F | C22H20FN7O3S2
